US06552069B1
4,4,5,5,6,6,7,7,7-Nonafluoroheptanecarbonitrile (4.7 g, 17.2 mmol) was stirred in concentrated sulfuric acid (15 ml) for 3 hours at room temperature, cooled to 0° C. and mixed with water (15 ml), followed by heating under reflux for 12 hours. The reaction mixture was extracted with dichloromethane and the resulting organic layer was washed with water and saturated aqueous sodium chloride and then dried over anhydrous magnesium sulfate. The solvent was distilled off to give 4,4,5,5,6,6,7,7,7-nonafluoroheptanoic acid (5.1 g, quantitative) as an oil.

reactant | 4,4,5,5,6,6,7,7,7-Nonafluoroheptanecarbonitrile | 17.2 mmol, 4.7 g | FC(CCCC#N)(C(C(C(F)(F)F)(F)F)(F)F)F | C8H6F9N
reactant | water | 15 ml | O | H2O
reactant | sulfuric acid | 15 ml | S(O)(O)(=O)=O | H2O4S
product | 4,4,5,5,6,6,7,7,7-nonafluoroheptanoic acid | 5.1 g | FC(CCC(=O)O)(C(C(C(F)(F)F)(F)F)(F)F)F | C7H5F9O2
